US08445118B2
(27) Tin Catecholate (Molecular Weight: 335)
A solution of catechol (2.20 g, 20.0 mmol) and toluene (25 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 4.11 g (10.0 mmol) of tin(IV) butoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, volatile components of the residual mixed solution were vaporized under reduced pressure by a rotary evaporator. The residual solid content was further heated to 100° C. under vacuum using a vacuum dryer so that the remaining volatile components were completely removed. The solid content (catechol-tin complex) was green in color. The yield amount was 3.35 g (10.0 mmol), and the yield percentage was 100%. 6.70 g of catechol-tin complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 20.0 mmol, 2.20 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | tin(IV) butoxide | 10.0 mmol, 4.11 g | [O-]CCCC.[Sn+4].[O-]CCCC.[O-]CCCC.[O-]CCCC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Tin Catecholate | C=1([O-])C([O-])=CC=CC1.[Sn+4].C=1([O-])C([O-])=CC=CC1 | InChI=1S/2C6H6O2.Sn/c2*7-5-3-1-2-4-6(5)8;/h2*1-4,7-8H;/q;;+4/p-4
